US06013649
Part C: A solution of 13 g (58 mmol) of 3-[(4-fluorophenyl)sulfonyl]propan-1-ol from part B and 16 g (175 mM) of phenol in 100 mL of anhydrous DMF was purged with nitrogen for one-half hour then treated with 24 g (175 mM) of potassium carbonate. The reaction mixture was then placed in a 100° C. oil bath. After 24 hours, the reaction mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and water. The layers were separated and the organic layer was washed with 1N HCl solution, saturated sodium bicarbonate solution and brine, dried (MgSO4), and concentrated to afford 29 g of crude product. This was chromatographed on silica gel using 30-45% ethyl acetate/hexane to yield 12 g of pure 3-[(4-phenoxyphenyl)sulfonyl]propan-1-ol, m/z=299 (M+Li).

reactant | 3-[(4-fluorophenyl)sulfonyl]propan-1-ol | 58 mmol, 13 g | FC1=CC=C(C=C1)S(=O)(=O)CCCO | C9H11FO3S
reactant | phenol | 175 mM, 16 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 175 mM, 24 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[(4-phenoxyphenyl)sulfonyl]propan-1-ol | 12 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)CCCO | C15H16O4S
